US04827004
A solution of 5 g of E-geranylacetone in 90 ml of dimethoxyethane is treated at -20° with 25.1 g of phosphonoacetamide diethyl ester and 1.86 g of 50% sodium hydride dispersion in mineral oil. The reaction mixture is stirred at room temperature for 3.5 hours under argon. After the addition of water the mixture is extracted with ethyl acetate. The organic phase is dried and freed from solvent. Crystallization of the (2E/Z,6E)-3,7,11-trimethyl-2,6,10-dodecatrienamide (4:1 2E/Z mixture), which remains behind as the residue, from hexane gives white crystals, m.p. 51°-52.5°. This material is recrystallized a further twice from hexane, there being obtained pure (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienamide as a white crystalline material of m.p. 53°-53.5°.

reactant | E-geranylacetone | 5 g | C(\C=C(/C)\CCC=C(C)C)CC(C)=O | C13H22O
reactant | phosphonoacetamide diethyl ester | 25.1 g | C(C)N(C(CP(=O)(O)O)=O)CC | C6H14NO4P
reactant | sodium hydride | 1.86 g | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane | 90 ml | C(OC)COC | C4H10O2
product | (E,E)-3,7,11-trimethyl-2,6,10-dodecatrienamide | C\C(=C/C(=O)N)\CC\C=C(\CCC=C(C)C)/C | C15H25NO
